US07488740B2
H. 7-(3-Methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrazin-2-yl)-[1,8]naphthyridin-4-amine
Heat a mixture of 5-chloro-2-(3-methylpyridin-2-yl)-[1,8]naphthyridine (51 mg, 0.2 mmol), 2-amino-5-trifluoromethylpyrazine (42.0 mg, 0.25 mmol), xantphos (11.6 mg, 0.02 mmol); Pd2(dba)3 (18.3 mg, 0.02 mmol)and Cs2CO3 (130 mg, 0.4 mmol) in dioxane (2.0 mL) at 100° C. for 20 hours. Cool the mixture, concentrate under vacuum, dilute with EtOAc/water (5.0 mL each), filter through celite, wash celite with EtOAc (2×5 mL) and dry the combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum to afford the crude product. Purify by preparative TLC using 2% MeOH/EtOAc as eluent to afford the title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) δ 10.6 (s, 1H), 9.04 (d, 1H, J=2.1 Hz), 9.0 (s,1H), 8.77 (s, 2H), 8.59 (d, 1H, J=1.6 Hz), 8.4 (s, 1H), 8.20 (d, 1H, J=2.2 Hz), 7.81(d, 1H, J=1.9 Hz), 7.42 (dd, 1H), 2.65 (s, 3H). MS=383.11 (M+H).

reactant | 5-chloro-2-(3-methylpyridin-2-yl)-[1,8]naphthyridine | 0.2 mmol, 51 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1C | C14H10ClN3
reactant | 2-amino-5-trifluoromethylpyrazine | 0.25 mmol, 42.0 mg | NC1=NC=C(N=C1)C(F)(F)F | C5H4F3N3
reactant | xantphos | 0.02 mmol, 11.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.4 mmol, 130 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(3-Methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrazin-2-yl)-[1,8]naphthyridin-4-amine | CC=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(N=C1)C(F)(F)F | C19H13F3N6
